* Buck with Level-1 MOSFET — ngspice benchmark
* Matches Pulsim benchmarks/circuits/buck_mosfet_nonlinear.yaml
*
* This is the only benchmark today that exercises Pulsim's own
* nonlinear MOSFET model (vth=3, kp=0.20, lambda=0.01) against
* ngspice's NMOS Level-1 with matching parameters. Pulsim's `kp` maps
* directly onto ngspice's KP=KP_eff*W/L; with W=L=1µm we get
* KP_eff = 0.20 A/V² which matches Pulsim's `kp=0.20`.
*
* Pulsim's body-diode behaviour is replaced by an explicit external
* freewheel diode (D1, g_on=150 → RON=6.67m). The ngspice NMOS model
* can have an implicit body diode (IS!=0); we set IS=0 so only the
* explicit S2 acts as the freewheel.
*
* Pulsim circuit:
*   Vdc=24V, Vgate PWM 80 kHz, duty=0.36, dead_time=80 ns
*   (v_high=35V to drive M1 hard ON, v_low=0V).
*   M1 NMOS (gate=gate, drain=vin, source=sw) — high-side switch.
*   D1 freewheel (anode=0, cathode=sw).
*   Rdcr=20m, L1=220µH, C1=220µF, Rload=8Ω, Rbleed_sw=1MΩ.
*
* PULSE timing: period=12.5µs, duty=0.36 → PW = duty*period = 4.5 µs.
* Pulsim's `dead_time` is a transition-region delay between rails — it
* does NOT subtract from the high-time. Aligning ngspice PW to Pulsim's
* nominal high-time tightens the buck output average from ~0.5 V error
* down to ~0.15 V (last 100 µs avg, 8 PWM cycles). TR=TF=1n.

Vdc  vin 0 DC 24
Vgate gate 0 PULSE(0 35 0 1n 1n 4.5u 12.5u)

* High-side NMOS — drain=vin, source=sw, gate=gate.
* Body terminal tied to source (sw) is the standard buck convention.
M1 vin gate sw sw NMOS_L1 W=1u L=1u
.model NMOS_L1 NMOS LEVEL=1 VTO=3.0 KP=0.20 LAMBDA=0.01 IS=0

* Freewheel diode emulated as voltage-controlled switch (Pulsim's
* `diode` is g_on/g_off PWL — same model as in buck_switching.cir).
S2 0 sw 0 sw DMOD
.model DMOD SW(VT=0 VH=1m RON=6.67m ROFF=1Meg)

Rdcr sw n_l 20m
L1   n_l out 220u IC=0
C1   out 0   220u IC=0
Rload out 0 8.0
Rbleed_sw sw 0 1Meg

.tran 0.2u 500u
.end
